US07834002B2
To a 200 mL round-bottom flask, 50 mL of dichloromethane, 2.78 g of t-butyl 5-(6-hydroxymethylpyridin-2-yl)pentanoate and 2.0 g of diisopropylethylamine were added, and the mixture was stirred at ice temperature for 10 minutes. To the reaction mixture, 0.89 mL of methanesulfonyl chloride was added dropwise, and the mixture was stirred at room temperature for 3 hours. Water was added to the reaction mixture, and the mixture was partitioned. The organic layer was washed with saturated aqueous sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, and then the solvent was removed. The residue was purified by chromatography on silica gel (n-hexane-ethyl acetate=3:1) to give 2.28 g of t-butyl 5-(6-methane-sulfonyloxymethylpyridin-2-yl)pentanoate as a yellow oil.

reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
reactant | t-butyl 5-(6-hydroxymethylpyridin-2-yl)pentanoate | 2.78 g | OCC1=CC=CC(=N1)CCCCC(=O)OC(C)(C)C | C15H23NO3
reactant | diisopropylethylamine | 2.0 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.89 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | Water | O | H2O
product | t-butyl 5-(6-methane-sulfonyloxymethylpyridin-2-yl)pentanoate | 2.28 g | CS(=O)(=O)OCC1=CC=CC(=N1)CCCCC(=O)OC(C)(C)C | C16H25NO5S
